US04863904
To a solution of 2.76 g of 2-(1-naphthylmethyl)-2-(4-phenylbutyl)malonic acid diethyl ester in 20 ml of dimethyl sulfoxide and 0.5 ml of water was added 1.27 g of lithium chloride, and then the mixture was heated for 8 hours at from 180° to 190° C. After cooling, to the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain 2.06 g of 2-(1-naphthylmethyl)-6-phenylhexanoic acid ethyl ester as a light brown oil.

reactant | 2-(1-naphthylmethyl)-2-(4-phenylbutyl)malonic acid diethyl ester | 2.76 g | C(C)OC(C(C(=O)OCC)(CCCCC1=CC=CC=C1)CC1=CC=CC2=CC=CC=C12)=O | C28H32O4
reactant | lithium chloride | 1.27 g | [Cl-].[Li+]
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | 0.5 ml | O | H2O
product | 2-(1-naphthylmethyl)-6-phenylhexanoic acid ethyl ester | 2.06 g | C(C)OC(C(CCCCC1=CC=CC=C1)CC1=CC=CC2=CC=CC=C12)=O | C25H28O2
